US06028195
1-{[5-(1-Hydroxyethyl)-2-methoxy-6-methylpyridin-3-yl]aminocarbonyl}-4-(3,5-dimethoxyphenyl)piperazine
1-[(5-Acetyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine(100 mg, 0.23 mmol) was dissolved in anhydrous ethanol(15 ml) and NaBH4 (8.66 mg) was added. The reaction solution was stirred at room temperature for 2 hours. The mixture was concentrated under the reduced pressure to remove ethanol and purified by column chromatography (ethylacetate:hexane=2:1) to obtain the titled compound.

reactant | 1-[(5-Acetyl-2-methoxy-6-methylpyridin-3-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | 0.23 mmol, 100 mg | C(C)(=O)C=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC | C22H28N4O5
reactant | NaBH4 | 8.66 mg | [BH4-].[Na+]
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 1-{[5-(1-Hydroxyethyl)-2-methoxy-6-methylpyridin-3-yl]aminocarbonyl}-4-(3,5-dimethoxyphenyl)piperazine | yield: 97% | OC(C)C=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC | C22H30N4O5
